US07700637B2
TEA (474 μL, 3.4 mmol), is added dropwise to a suspension of the title A compound, 4-chlorosulfonyl-benzoyl chloride in DCM (10 mL) at −78° C. To this mixture is added p-fluorophenethylamine over 5 min. After another 10 min at −78° C., the solution is allowed to warm to 0° C. and stirring is continued at this temperature for 1 h. The reaction is quenched by adding it to ice-water (30 mL), and the mixture is extracted with DCM (3×10 mL). The combined organic phases are dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum to obtain the crude product which is chromatographed on silica gel using EtOAc as the eluent to give 4-[2-(4-fluoro-phenyl)-ethylcarbamoyl]-benzenesulfonyl chloride.

reactant | 4-chlorosulfonyl-benzoyl chloride | ClS(=O)(=O)C1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O3S
reactant | p-fluorophenethylamine | FC1=CC=C(CCN)C=C1 | C8H10FN
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-[2-(4-fluoro-phenyl)-ethylcarbamoyl]-benzenesulfonyl chloride | FC1=CC=C(C=C1)CCNC(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C15H13ClFNO3S
